data/mechanism_extracts/GreenSynthCatal/10.1016_j.gresc.2022.10.008.json
{"doi": "10.1016_j.gresc.2022.10.008", "journal": "GreenSynthCatal", "is_review": false, "rxn_class_summary": "Electrochemical trifunctionalization of styrenes with diaryl disulfides (or thiophenols), NCS, and water to install two C-Cl bonds, one C-S bond, and one S=O bond (chloro-sulfoxidation/chlorination) in one pot.", "mechanism_family": ["radical_anodic", "mediator_cathodic", "radical_polar_crossover"], "electrochemical_role": "Cathodic reduction of NCS generates chloride and succinimidyl anion; anodic oxidation of disulfide/thiophenol generates thiyl radical and also oxidizes chloride to Cl• and the chlorothiolation intermediate 4b to a radical cation that is trapped by water.", "key_intermediates": [{"name": "thiyl radical (ArS•) from anodic oxidation of disulfide/thiophenol", "smiles": "[S]c1ccc(C)cc1", "role": "reactive"}, {"name": "benzylic carbon radical II from ArS• addition to styrene", "smiles": null, "role": "reactive"}, {"name": "chlorothiolation intermediate 4b (β-chloro sulfide)", "smiles": null, "role": "reactive"}, {"name": "sulfur radical cation III from anodic oxidation of 4b", "smiles": null, "role": "transient"}, {"name": "α-chloro sulfoxide intermediate 5 (after water addition/oxidation)", "smiles": null, "role": "reactive"}, {"name": "second benzylic C-radical IV from anodic oxidation of 5", "smiles": null, "role": "reactive"}, {"name": "chloride anion / Cl• (from NCS reduction and anodic oxidation)", "smiles": "[Cl-]", "role": "reactive"}], "electron_flow": "At the cathode NCS is reduced to Cl– (and succinimidyl anion → succinimide); at the anode disulfide/thiophenol is oxidized to ArS• which adds to the styrene to give a benzylic radical trapped by Cl• to form chlorothioether 4b; anodic oxidation of 4b's sulfur generates a radical cation that is captured by H2O to give α-chloro sulfoxide 5, which is further anodically oxidized to a benzylic radical IV and coupled with Cl• to deliver the trifunctionalized product.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction (both initial trifunctionalization from 1h and second chlorination of 5) suppressed; TEMPO-adduct 7 with intermediate 5 detected by HRMS, consistent with C-radical IV; supported by EPR."}, {"name": "H2-18O", "smiles": "[18OH2]", "purpose": "isotope_label", "observation": "18O-labeled product 3aa obtained in 69% yield (HRMS confirmed), proving the S=O oxygen originates from water."}, {"name": "dry MeCN (water exclusion)", "smiles": "CC#N", "purpose": "other", "observation": "No trifunctionalization or 5 formed from 1h+2a in anhydrous MeCN, confirming water is required for the first sulfoxidation; however, second chlorination of pre-formed 5 still proceeds in dry MeCN (64%)."}, {"name": "chlorothioether 4a", "smiles": null, "purpose": "intermediate_trap", "observation": "Under standard conditions 4a gave 3ad in 67%, supporting chlorothiolation as an early intermediate."}, {"name": "α-chloro sulfoxide 5", "smiles": null, "purpose": "stoichiometric_intermediate", "observation": "Treatment of 5 with NCS under standard conditions gave 3ha in 91%, confirming 5 as a key on-cycle intermediate."}, {"name": "NBS (replacing NCS)", "smiles": "O=C1CCC(=O)N1Br", "purpose": "intermediate_trap", "observation": "Bromination product 6 obtained in 70% yield (d.r. 3:1), supporting the halogen-radical pathway for the second halogenation."}], "evidence_types_used": ["H/D_labeling", "intermediate_trap_TEMPO", "stoichiometric_intermediate", "EPR", "isolation_of_intermediate", "product_isotope_distribution"], "evidence_strength": "strong", "notes": "Water serves both as solvent and as the oxygen source for the sulfoxide S=O; the mechanism proceeds via sequential bifunctionalization (chlorothiolation) then anodic oxidation/water addition then radical chlorination, i.e., a stepwise radical/radical-cation (radical-polar crossover) sequence rather than concerted trifunctionalization."}
